US06906095B2
Preparation of 2-{Cyclohexyl[1-(phenylsulfonyl)-1H-indol-3-yl]methylidene}-hydrazinecarboximidamide
A solution of indole (11.7 g, 0.1 mol) in THF is added to a stirred mixture of NaH (60% dispersion in mineral oil, 4.2, g 0.105 mol), DMSO and THF. The reaction mixture is stirred for 1 h at room temperature, cooled to 0° C., treated with phenylsulfonyl chloride (13.3 mL, 0.15 mol), stirred at ambient temperatures for 3 h, quenched with water and extracted with ethyl acetate. The extracts are combined, dried over MgSO4 and concentrated in vacuo. The resultant residue is crystallized in ethanol and filtered. The filtercake is air-dried to give 1-phenylsulfonylindole. A portion of this 1-phenylsulfonylindole (257 mg, 1.0 mmol) and cyclohexylcarbonyl chloride (0.175 mL, 1.3 mmol) in methylene chloride is treated with tin tetrachloride (97 μL, 1.9 mmol) at room temperature, shaken for 6 h, quenched with saturated NaHCO3 and extracted with ethylacetate. The extracts are combined and concentrated in vacuo to give a residue. The residue is suspended in isopropanol, treated sequentially with concentrated HCl (50 μL) and aminoguanidine bicarbonate (100 mg, 0.5 mmol), heated at 80° C. for 4 h, cooled to room temperature and concentrated in vacuo. The resultant residue is purified by HPLC to afford the title product 37.7 mg (17% yield), identified by HPLC1 and mass spectral analyses.

reactant | 1-phenylsulfonylindole | 1.0 mmol, 257 mg | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=CC=CC=C12 | C14H11NO2S
reactant | cyclohexylcarbonyl chloride | 1.3 mmol, 0.175 mL | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | tin tetrachloride | 1.9 mmol, 97 μL | [Sn](Cl)(Cl)(Cl)Cl
reactant | HCl | 50 μL | Cl | ClH
reactant | aminoguanidine bicarbonate | 0.5 mmol, 100 mg | C(O)(O)=O.NNC(=N)N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2-{Cyclohexyl[1-(phenylsulfonyl)-1H-indol-3-yl]methylidene}-hydrazinecarboximidamide | 37.7 mg, 17% yield | C1(CCCCC1)C(=NNC(N)=N)C1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=CC=C1 | C22H25N5O2S
